US06515130B1
Di 3-(N-Benzyloxycarbonyl-4-piperidyl)propionic Acid Calcium Salt
3-(4-Piperidyl)propionic acid (20.0 g, 0.12 mol) and calcium hydroxide (14.1 g, 0.19 mol) were suspended in 47 g water and 195 g acetonitrile at 15-25° C. and then cooled to 0-10° C. Benzyl chloroformate (23.9 g, 0.14 mol) was added within 30 minutes and the reaction stirred at 0-5° C. for 2 h. The product precipitated during the reaction and was isolated by filtration to afford the title compound in 95% yield.

reactant | 3-(4-Piperidyl)propionic acid | 0.12 mol, 20.0 g | N1CCC(CC1)CCC(=O)O | C8H15NO2
reactant | calcium hydroxide | 0.19 mol, 14.1 g | [OH-].[Ca+2].[OH-]
reactant | acetonitrile | 195 g | C(C)#N | C2H3N
reactant | Benzyl chloroformate | 0.14 mol, 23.9 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 47 g | O | H2O
product | 3-(N-Benzyloxycarbonyl-4-piperidyl)propionic Acid Calcium Salt | 95% yield | [Ca+2].C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(=O)[O-].C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(=O)[O-] | InChI=1S/2C16H21NO4.Ca/c2*18-15(19)7-6-13-8-10-17(11-9-13)16(20)21-12-14-4-2-1-3-5-14;/h2*1-5,13H,6-12H2,(H,18,19);/q;;+2/p-2
